US07825253B2
rac-5-Chloro-thiophene-2-sulfonic acid {2-[1-(2-methoxy-phenyl)-ethylamino]-quinolin-5-yl}-amide
The title compound, MS: m/e=474.1 (M+H+), was prepared in accordance with the general method of example 61 from 5-nitro-2-chloroquinoline, 5-chlorothiophene-2-sulfonylchloride and rac-1-(2-methoxy-phenyl)-ethylamine.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 5-chlorothiophene-2-sulfonylchloride | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | rac-1-(2-methoxy-phenyl)-ethylamine | COC1=C(C=CC=C1)C(C)N | C9H13NO
product | rac-5-Chloro-thiophene-2-sulfonic acid {2-[1-(2-methoxy-phenyl)-ethylamino]-quinolin-5-yl}-amide | COC1=C(C=CC=C1)C(C)NC1=NC2=CC=CC(=C2C=C1)NS(=O)(=O)C=1SC(=CC1)Cl | C22H20ClN3O3S2
